US05047411
A mixture of 4-methyl-2-[1-{3-(4-amino-3-hydroxyphenyl)propionamido}ethyl]pyridine (8.0 g) and ethyl isocyanate (2.2 ml) in tetrahydrofuran (100 ml) was stirred for 2.5 hours at ambient temperature. The solvent was evaporated in vacuo and the residue was dissolved with a mixture of methanol and chloroform (5:95 V/V) and washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to give a residue including 4-methyl-2-[1-[3-{4-(3-ethylureido)-3-hydroxyphenyl}propionamido]ethyl]pyridine. The residue was stirred with polyphosphate ester (66 g) at 140° C. for 1 hour. The mixture was poured into ice-water, adjusted to pH 8 with 20% potassium carbonate and extracted with tetrahydrofuran by salting out technique. The extract was washed with brine and dried over magnesium sulfate and the solvent was removed under reduced pressure. The residue was crystallized from a mixture of chloroform and ethyl acetate to give 6-[2-(1,7-dimethylimidazo[1,5-a]pyridin-3-yl)ethyl]-2-ethylaminobenzoxazole (1.7 g).

reactant | 4-methyl-2-[1-{3-(4-amino-3-hydroxyphenyl)propionamido}ethyl]pyridine | 8.0 g | CC1=CC(=NC=C1)C(C)NC(CCC1=CC(=C(C=C1)N)O)=O | C17H21N3O2
reactant | ethyl isocyanate | 2.2 ml | C(C)N=C=O | C3H5NO
reactant | 4-methyl-2-[1-[3-{4-(3-ethylureido)-3-hydroxyphenyl}propionamido]ethyl]pyridine | CC1=CC(=NC=C1)C(C)NC(CCC1=CC(=C(C=C1)NC(=O)NCC)O)=O | C20H26N4O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-[2-(1,7-dimethylimidazo[1,5-a]pyridin-3-yl)ethyl]-2-ethylaminobenzoxazole | 1.7 g | CC=1N=C(N2C1C=C(C=C2)C)CCC2=CC1=C(N=C(O1)NCC)C=C2 | C20H22N4O
